US05280032
A mixture of 2.0 g of 1-acetoxy-1-(6-benzyloxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]-ethane hydrochloride, 0.5 g of 5% palladium-carbon and 40 ml of ethanol was subjected to hydrogenation at room temperature under atmospheric pressure. After the completion of the reaction, the palladium-carbon was removed by filtration. The solvent was removed by distillation under reduced pressure. Acetone was added to the residue thus obtained. The resulting crystals were collected by filtration and dried to obtain 0.76 g of 1-acetoxy-1-(6-hydroxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethane hydrochloride (compound No. 287).

reactant | 1-acetoxy-1-(6-benzyloxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]-ethane hydrochloride | 2.0 g | Cl.C(C)(=O)OC(COCCN(C)C)C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-acetoxy-1-(6-hydroxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethane hydrochloride | 0.76 g | Cl.C(C)(=O)OC(COCCN(C)C)C1=CC2=CC=C(C=C2C=C1)O | InChI=1S/C18H23NO4.ClH/c1-13(20)23-18(12-22-9-8-19(2)3)16-5-4-15-11-17(21)7-6-14(15)10-16;/h4-7,10-11,18,21H,8-9,12H2,1-3H3;1H
